US05496843
4) 7-chloro-5-nitrotetralin
To a suspension of 85% nitronium tetrafluoroborate (6.19 g, 39.6 mmol) in dichloromethane (60 mL) was added dropwise a solution of 6-chlorotetralin (6.0 g, 36 mmol) in dichloromethane (60 mL) over 15 min at 0° C. The mixture was stirred for 40 min at 0° C. and quenched by addition of ice-water (100 mL). The organic layer was separated, washed with water, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 30:1~4:1 hexane/toluene to give 3.83 g of the title compound (54%): 1H NMR (CDCl3) δ7.65 (d, 1H, J=2.3 Hz), 7.30 (d, 1H, J=8.9 Hz), 2.90 (m, 4H), 1.76 (m, 4H).

reactant | nitronium tetrafluoroborate | 39.6 mmol, 6.19 g | F[B-](F)(F)F.O=[N+]=O
reactant | 6-chlorotetralin | 36 mmol, 6.0 g | ClC=1C=C2CCCCC2=CC1 | C10H11Cl
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 7-chloro-5-nitrotetralin | 3.83 g, 54% | ClC1=CC(=C2CCCCC2=C1)[N+](=O)[O-] | C10H10ClNO2
